* Schematics Netlist *



C_C         0 $N_0001  15u  
X_b         $N_0002 $N_0003 Sw_tClose PARAMS: tClose=0.1 ttran=1u Rclosed=0.01
+  Ropen=1Meg
X_a         $N_0004 $N_0002 Sw_tOpen PARAMS: tOpen=0.1 ttran=1u Rclosed=0.01
+  Ropen=1Meg
I_IS2         $N_0004 $N_0005 DC 120m  
R_R1         0 $N_0006  4  
V_US1         $N_0006 $N_0005 DC 10  
R_R2         0 $N_0007  6  
R_R4         $N_0007 $N_0004  8  
R_R3         $N_0005 $N_0007  10  
R_R6         0 $N_0003  12  
I_IS3         $N_0008 0 DC 0.5  
R_R5         $N_0001 $N_0002  5  
R_R7         $N_0003 $N_0008  20  
